US07662808B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non yl)-phenyl]-3-cyano-benzamide hydrochloric acid salt (Compound G8)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non yl)-phenylamine and 3-cyanobenzoyl chloride. Mp. 250° C. (decomp.).

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non yl)-phenylamine | N12C(CNC(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non yl)-phenyl]-3-cyano-benzamide hydrochloric acid salt | Cl.N12C(CNC(CC1)CC2)C2=CC=C(C=C2)NC(C2=CC(=CC=C2)C#N)=O | InChI=1S/C21H22N4O.ClH/c22-13-15-2-1-3-17(12-15)21(26)24-19-6-4-16(5-7-19)20-14-23-18-8-10-25(20)11-9-18;/h1-7,12,18,20,23H,8-11,14H2,(H,24,26);1H
